US05438052
4-(4-Chloro-5-pyrimidinyl)-o-phenylene diacetate (1.1 g) (3.6 mmol) are dissolved in 30 ml of methanol. 1.56 g of sodium hydrogen sulphide hydrate are added thereto and the mixture is stirred at 60° C. for 4.5 hours. The solvent is distilled off in a vacuum and the residue is dissolved in 20 ml of water. The solution is acidified with dilute aqueous hydrochloric acid to pH 5, the precipitated product is filtered off under suction and washed with water and diethyl ether. After drying in a high vacuum there are obtained 770 mg of 5-(3,4-dihydroxyphenyl)-4(3H)-pyrimidinethione as yellow crystals of m.p. 235° C. (dec.).

reactant | 4-(4-Chloro-5-pyrimidinyl)-o-phenylene diacetate | 3.6 mmol, 1.1 g | C(C)(=O)OC1=C(C=C(C=C1)C=1C(=NC=NC1)Cl)OC(C)=O | C14H11ClN2O4
reactant | sodium hydrogen sulphide hydrate | 1.56 g | O.S.[Na]
solvent | methanol | 30 ml | CO | CH4O
product | 5-(3,4-dihydroxyphenyl)-4(3H)-pyrimidinethione | 770 mg | OC=1C=C(C=CC1O)C=1C(NC=NC1)=S | C10H8N2O2S
